US08664387B2
To a solution of 6-bromo-3-[(3S,4S)-4-hydroxytetrahydro-2H-pyran-3-yl]pyrido[2,3-h]quinazolin-4(3H)-one (1.00 g, 2.66 mmol) in 6 mL of DMF under an atmosphere of nitrogen was added potassium acetate (0.783 g, 7.97 mmol), bis(pinacolato)diboron (1.01 g, 3.99 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II), 1:1 complex with dichloromethane (0.217 g, 0.266 mmol). The mixture was heated at 80° C. for 2 h, cooled to rt, and treated with 1 N aqueous sodium hydroxide to pH ˜9. The aqueous solution was washed 2× with dichloromethane, then treated with 10% aqueous potassium phosphate to pH ˜7. A brown solid was collected via filtration to provide {3-[(3S,4S)-4-hydroxytetrahydro-2H-pyran-3-yl]-4-oxo-3,4-dihyrdopyrido[2,3-h]quinazolin-6-yl}boronic acid that gave a mass ion (ES+) of 342.0 for [M+H]+.

reactant | 6-bromo-3-[(3S,4S)-4-hydroxytetrahydro-2H-pyran-3-yl]pyrido[2,3-h]quinazolin-4(3H)-one | 2.66 mmol, 1.00 g | BrC=1C=C2C(N(C=NC2=C2C1N=CC=C2)[C@H]2COCC[C@@H]2O)=O | C16H14BrN3O3
reactant | potassium acetate | 7.97 mmol, 0.783 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 3.99 mmol, 1.01 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.266 mmol, 0.217 g | ClCCl | CH2Cl2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {3-[(3S,4S)-4-hydroxytetrahydro-2H-pyran-3-yl]-4-oxo-3,4-dihyrdopyrido[2,3-h]quinazolin-6-yl}boronic acid | O[C@@H]1[C@H](COCC1)N1C=NC2=C3C(=C(C=C2C1=O)B(O)O)N=CC=C3 | C16H16BN3O5
